US08486967B2
e) N-(3-Bromo-6-ethoxycarbonyl-pyridin-2-yl)-N′-ethoxycarbonyl-thiourea
To a solution of 6-amino-5-bromo-pyridine-2-carboxylic acid methyl ester (3.3 g, 14.28 mmol) in dry 1,4-dioxane (20 mL) was added ethoxy carbonyl isothiocyanate (1.8 mL, 15.7 mmol) under an argon atmosphere and stirred at room temperature for 16 hours. The solvent was evaporated and the title compound was obtained as yellow solid (4.9 g, 95%).

reactant | 6-amino-5-bromo-pyridine-2-carboxylic acid methyl ester | 14.28 mmol, 3.3 g | COC(=O)C1=NC(=C(C=C1)Br)N | C7H7BrN2O2
reactant | ethoxy carbonyl isothiocyanate | 15.7 mmol, 1.8 mL | C(C)OC(=O)N=C=S | C4H5NO2S
reactant | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | N-(3-Bromo-6-ethoxycarbonyl-pyridin-2-yl)-N′-ethoxycarbonyl-thiourea | BrC=1C(=NC(=CC1)C(=O)OCC)NC(=S)NC(=O)OCC | C12H14BrN3O4S
